US04612376
To a mixture of ethyl nicotinoylacetate (2.30 g) and N,N'-dimethylurea (1.05 g) were added conc. hydrochloric acid (a few drops) and ethanol (1 ml) and the mixture was stirred at 110°-115° C. for 4 hours under reduced pressure (30 mmHg). After being cooled to ambient temperature, the solution was adjusted to pH 7.0 with an aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated to give 6-(3-pyridyl)-1,3-dimethyl-2,4(1H,3H)-pyrimidinedione (0.91 g).

reactant | ethyl nicotinoylacetate | 2.30 g | C(C1=CN=CC=C1)(=O)CC(=O)OCC | C10H11NO3
reactant | N,N'-dimethylurea | 1.05 g | CNC(=O)NC | C3H8N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | hydrochloric acid | a few drops | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 6-(3-pyridyl)-1,3-dimethyl-2,4(1H,3H)-pyrimidinedione | 0.91 g | N1=CC(=CC=C1)C1=CC(N(C(N1C)=O)C)=O | C11H11N3O2
